US07507740B2
Production of N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-(2-ethoxyethyl)-5H-pyrrolo[3,2-d]pyrimidin-4-amine
To a solution of 4-chloro-5-(2-ethoxyethyl)-5H-pyrrolo[3,2-d]pyrimidine (160 mg) in 1-methyl-2-pyrrolidone (1.4 mL) was added 3-chloro-4-(pyridin-2-ylmethoxy)aniline (250 mg). The title compound (160 mg) was obtained as pale-yellow needle crystals by the reaction in the same manner as in Example 42 (ii).

reactant | 4-chloro-5-(2-ethoxyethyl)-5H-pyrrolo[3,2-d]pyrimidine | 160 mg | ClC=1C2=C(N=CN1)C=CN2CCOCC | C10H12ClN3O
reactant | 3-chloro-4-(pyridin-2-ylmethoxy)aniline | 250 mg | ClC=1C=C(N)C=CC1OCC1=NC=CC=C1 | C12H11ClN2O
solvent | 1-methyl-2-pyrrolidone | 1.4 mL | CN1C(CCC1)=O | C5H9NO
product | N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-(2-ethoxyethyl)-5H-pyrrolo[3,2-d]pyrimidin-4-amine | 160 mg | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC=1C2=C(N=CN1)C=CN2CCOCC | C22H22ClN5O2
